US07989442B2
c. 4-bromo-2-[[(2,4-difluorophenyl)methylene]amino]-5-fluorophenol
A solution of 2-amino-4-bromo-5-fluorophenol (10.1 g, 49 mmol), 2,4-difluorobenzaldehyde (5.36 mL, 49 mmol) and p-toluenesulfonic acid (100 mg, 0.52 mmol) in toluene (250 mL) was heated to reflux in a Dean-Stark apparatus for 0.5 h and then allowed to cool to ambient temperature. After adding triethylamine (1 mL) the reaction mixture was concentrated under reduced pressure to give the crude compound which was used without further purification. (16.1 g, 99%). 1H-NMR (400 MHz, CDCl3) 6.83 (d, J=10.2, 1H), 6.93 (m, 1H), 7.01 (m, 1H), 7.49 (d, J=7.6, 1H), 8.13 (m, 1H), 8.85 (s, 1H).

reactant | 2-amino-4-bromo-5-fluorophenol | 49 mmol, 10.1 g | NC1=C(C=C(C(=C1)Br)F)O | C6H5BrFNO
reactant | 2,4-difluorobenzaldehyde | 49 mmol, 5.36 mL | FC1=C(C=O)C=CC(=C1)F | C7H4F2O
reactant | p-toluenesulfonic acid | 0.52 mmol, 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | 4-bromo-2-[[(2,4-difluorophenyl)methylene]amino]-5-fluorophenol | BrC1=CC(=C(C=C1F)O)N=CC1=C(C=C(C=C1)F)F | C13H7BrF3NO
